US07144908B2
v) Ethyl N-({[3-(4-{[6-(acetyloxy)hexyl]oxy}butyl)phenyl]amino}carbonyl)glycinate
6-[4-(3-Aminophenyl)butoxy]hexyl acetate (2.84 g) in CH2Cl2 (30 ml) was treated with ethyl isocyanatoacetate (1.2 ml). After 0.75 h the mixture was treated with MeOH (2 ml) and stirred for 0.5 h. The mixture was concentrated, purified on a 10 g silica Bond Elut cartridge eluting with Et2O-petroleum ether(1:1) and then with Et2O to give the title compound (3.33 g) ES+ve 437 (MH)+.

reactant | 6-[4-(3-Aminophenyl)butoxy]hexyl acetate | 2.84 g | C(C)(=O)OCCCCCCOCCCCC1=CC(=CC=C1)N | C18H29NO3
reactant | ethyl isocyanatoacetate | 1.2 ml | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | MeOH | 2 ml | CO | CH4O
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | Ethyl N-({[3-(4-{[6-(acetyloxy)hexyl]oxy}butyl)phenyl]amino}carbonyl)glycinate | 3.33 g | C(C)(=O)OCCCCCCOCCCCC=1C=C(C=CC1)NC(=O)NCC(=O)OCC | C23H36N2O6
